US04153716
A solution of 2.8 g. (0.009 mole) of 5-methylthiomethyl-2-nitro-3-phenylbenzofuran in 200 ml. of acetic acid is obtained by warming. The solution is cooled to 20° C., and 0.51 g. (0.0045 mole) of hydrogen peroxide in 15 ml. of acetic acid is added dropwise. After 20 hours, an additional 1.02 g. of 30 percent hydrogen peroxide in 20 ml. of acetic acid is added dropwise. After an additional 2.5 hours, the reaction is poured onto ice, the precipitate is collected by filtration and washed with water, then dissolved in a dichloromethane-diethyl ether mixture. This mixture is washed with water and saturated sodium chloride solution, then dried. Evaporation provides a solid which is dissolved in chloroform and eluted through a silica gel column with more chloroform. The desired product is eluted from the silica gel with ethyl acetate, recrystallized from a benzene-hexane mixture then from aqueous ethanol to provide yellow plates of 5-methylsulfinylmethyl-2-nitro-3-phenylbenzofuran, m.p. 162°-165° C.

reactant | 5-methylthiomethyl-2-nitro-3-phenylbenzofuran | 0.009 mole | CSCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C16H13NO3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 0.0045 mole | OO | H2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-methylsulfinylmethyl-2-nitro-3-phenylbenzofuran | CS(=O)CC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C16H13NO4S
